US04061761
3-Allyl-4-(4-chloro-3-sulfamoylphenyl)-2-isopropylimino-1,3-thiazolidine-4-ol-hydrobromide
6.2 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 3.16 g of 1-allyl-3-isopropylthiourea were reacted according to the prescription given in Example 23 and the colorless crystalline end product was filtered off.

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 6.2 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 1-allyl-3-isopropylthiourea | 3.16 g | C(C=C)NC(=S)NC(C)C | C7H14N2S
product | 3-Allyl-4-(4-chloro-3-sulfamoylphenyl)-2-isopropylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C=C)N1C(SCC1(O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O)=NC(C)C | InChI=1S/C15H20ClN3O3S2.BrH/c1-4-7-19-14(18-10(2)3)23-9-15(19,20)11-5-6-12(16)13(8-11)24(17,21)22;/h4-6,8,10,20H,1,7,9H2,2-3H3,(H2,17,21,22);1H
